US04450164
8-(2-Fluorobenzyloxy)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine
To an ice-cooled suspension of 1.56 g of lithium aluminium hydride in 200 ml tetrahydrofuran (THF) there was added 15.0 g of 8-(2-fluorobenzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester in portions so that the temperature remained below 10° C. After stirring at 0°-5° C. for an additional 1 hr., 1.6 ml water was added dropwise at 0°-10° C., followed by 1.6 ml15 % aqueous sodium hydroxide and then 4.8 ml water. The mixture was allowed to warm to room temperature with stirring, and was then suction-filtered in a sintered glass funnel. The solids left in the funnelwere thoroughly washed with 200 ml hot tetrahydrofuran and 4×150 ml hot chloroform. The filtrate and washings were combined, evaporated in vacuo, and the solid residue crystallized from acetonitrile to give the desired compound (m.p. 151°-153° C.).

reactant | lithium aluminium hydride | 1.56 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-(2-fluorobenzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 15.0 g | C(C)OC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2)F)C | C18H17FN2O3
reactant | water | 1.6 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 4.8 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 8-(2-Fluorobenzyloxy)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CO)C=CC=C1 | C16H15FN2O2
